US08703951B2
2) [6-Ethyl-3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-diyl]dimethanol (BO-1972)
Compound BO-1972 was prepared from dimethyl 6-ethyl-3-methyl-6,11-dihydro-5H-indolizino-[6,7-b]indole-1,2-dicarboxylate (3.6 g, 10 mmol) and LiAlH4 (0.92 g, 25 mmol). Yield 2.5 g (80%); mp 216-217° C. 1H NMR (DMSO-d6) δ 1.29 (3H, t, J=7.1 Hz, Me), 2.30 (3H, s, Me), 4.00 (2H, s, CH2), 4.21 (2H, q, J=7.1 Hz, CH2), 4.38 (3H, br s, CH2 and exchangeable, OH), 4.44 (3H, br s, CH2 and exchangeable, OH), 5.13 (2H, s, CH2), 7.04-7.07 (1H, m, ArH), 7.14-7.18 (1H, m, ArH), 7.47-7.49 (1H, m, ArH), 7.53-7.55 (1H, m, ArH). Anal. Calcd for (C19H22N2O2): C, 73.52; H, 7.14; N, 9.03. Found: C, 73.68; H, 6.93; N, 8.66.

reactant | dimethyl 6-ethyl-3-methyl-6,11-dihydro-5H-indolizino-[6,7-b]indole-1,2-dicarboxylate | 10 mmol, 3.6 g | C(C)N1C2=C(C=3C=CC=CC13)CC1=C(C(=C(N1C2)C)C(=O)OC)C(=O)OC | C21H22N2O4
reactant | LiAlH4 | 25 mmol, 0.92 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | [6-Ethyl-3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-diyl]dimethanol | C(C)N1C2=C(C=3C=CC=CC13)CC1=C(C(=C(N1C2)C)CO)CO | C19H22N2O2
